US09402832B2
N-(benzo[d][1,3]dioxol-5-ylmethyl)acetamide (9.24 g, 47.9 mmol) was added to 1.0 M solution of iodine monochloride in methylene chloride (80 mL). The mixture was stirred at room temperature for 2 hours, and then the mixture was poured into 10% Na2S2O3 and stirred until the red color faded. It was then extracted with CH2Cl2 and the organic layer was washed with water and brine, dried and concentrated to get the crude product which was purified by column chromatography (mobile phase: petroleum/methylene chloride=1/19) to give N-((6-iodobenzo[d][1,3]dioxol-5-yl)methyl)acetamide compound as a white solid (5.82 g, 38%). LC-MS: 320 [M+1]+. 1H-NMR (DMSO-d6): δ 1.89 (s, 3H), 4.11 (d, 2H, J=6.0 Hz), 6.04 (s, 2H), 7.07 (s, 1H), 7.37 (s, 1H), 8.28 (t, 1H, J=6.0 Hz).

reactant | N-(benzo[d][1,3]dioxol-5-ylmethyl)acetamide | 47.9 mmol, 9.24 g | O1COC2=C1C=CC(=C2)CNC(C)=O | C10H11NO3
reactant | iodine monochloride | ICl | ClI
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | N-((6-iodobenzo[d][1,3]dioxol-5-yl)methyl)acetamide | 5.82 g, 38% | IC=1C(=CC2=C(OCO2)C1)CNC(C)=O | C10H10INO3
